US07087599B2
A suspension of (2SR,9aRS)-9a-butyl-2-iodo-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (50 mg, 0.11 mmol) in methanol (3.5 mL) was placed under a nitrogen atmosphere, heated in an oil bath at 70° C. to affect solution, then treated with 2N aqueous HCl (0.195 mL, 0.39 mmol). The resulting solution was stirred and heated in an oil bath at 70° C. for 50 minutes. After cooling to room temperature, the mixture was diluted with EtOAc and shaken with 5% aqueous NaHCO3. The aqueous portion was separated and extracted with EtOAc. The combined organics were washed with water and brine, dried over MgSO4, filtered, and concentrated under vacuum to an oil. The crude product was purified by PLC on a 0.1×20×20 cm silica gel GF plate, developing twice with 5:1 hexanes-EtOAc. The band at Rf 0.24-0.32 was eluted with EtOAc and the eluant evaporated under vacuum to provide (2SR,9aRS)-9a-butyl-7-hydroxy-2-iodo-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an oil.

reactant | (2SR,9aRS)-9a-butyl-2-iodo-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.11 mmol, 50 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)I)=O)C)OCOC | C20H25IO3
reactant | HCl | 0.39 mmol, 2N, 0.195 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 3.5 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2SR,9aRS)-9a-butyl-7-hydroxy-2-iodo-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)I)=O)C)O | C18H21IO2
